US07560597B2
1-(4-Bromo-phenyl)-hexane-1,6-diol
1-(4-Bromo-phenyl)-hex-5-en-1-ol (1 g) was dissolved in 0.5 M NaBH4 in diglyme (9 mL) and chilled in an ice bath. BF3.OEt2 (1 mL) in diglyme (4 mL) was added with vigorous stirring. Stirring was continued for 1 hour and water (1 mL) was added. 3M NaOH (2 mL) was added followed by 30% H2O2 (3 mL). Anhydrous K2CO3 (5 g) was added and the solvent was decanted. The K2CO3 was washed with ethyl acetate and the combined organics were dried (Na2SO4) and evaporated. Distillation under vacuum removed most of the remaining diglyme. The residue was purified by column chromatography (light petroleum:diethyl ether 2:1) to give a clear oil which solidified to give the title compound as a white powder. 13C NMR (CDCl3): δ 25.4, 25.6, 32.5, 39.0, 62.7, 73.8, 121.2, 127.7, 131.5 and 143.9. 1H NMR (CDCl3): δ 1.40 (4H, m), 1.52 (2H, m), 1.74 (2H, m), 3.61 (2H, t, J=6.5 Hz), 4.74 (1H, t, J=6.5 Hz), 7.20 (2H, d, J=8.2 Hz) and 7.41 (2H, d, J=8.2 Hz).

reactant | 1-(4-Bromo-phenyl)-hex-5-en-1-ol | 1 g | BrC1=CC=C(C=C1)C(CCCC=C)O | C12H15BrO
reactant | BF3.OEt2 | 1 mL | B(F)(F)F.CCOCC
reactant | NaOH | 3M, 2 mL | [OH-].[Na+]
reactant | H2O2 | 3 mL | OO | H2O2
reactant | K2CO3 | 5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | NaBH4 | 0.5 M | [BH4-].[Na+]
solvent | diglyme | 9 mL | COCCOCCOC | C6H14O3
solvent | diglyme | 4 mL | COCCOCCOC | C6H14O3
solvent | water | 1 mL | O | H2O
product | 1-(4-Bromo-phenyl)-hexane-1,6-diol | BrC1=CC=C(C=C1)C(CCCCCO)O | C12H17BrO2
